US03935197
trans-9-Methyl-2-styryl-4H-pyrido[1,2-a]pyrimidin-4-one
To a solution of 1.1g of sodium methoxide and 25ml of absolute methanol is added 1.1g of 2,9-dimethyl-4H-pyrido-[1,2-a]pyrimidin-4-one, followed by 2.2g of benzaldehyde. The mixture is heated and stirred under reflux for 15 hours and concentrated on a rotary evaporator in vacuo at 45°C. The residual material is distributed between 100ml of chloroform and 50ml of water. The two solutions are separated and the chloroform solution is washed with saturated aqueous sodium chloride, dried, filtered, and the filtrate concentrated. The residual material is recrystallized from 100ml of cyclohexane to yield 0.44g of the title compound, melting point 150°-152°C.

reactant | sodium methoxide | 1.1g | C[O-].[Na+]
reactant | 2,9-dimethyl-4H-pyrido-[1,2-a]pyrimidin-4-one | 1.1g | CC=1N=C2N(C(C1)=O)C=CC=C2C | C10H10N2O
reactant | benzaldehyde | 2.2g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methanol | 25ml | CO | CH4O
product | trans-9-Methyl-2-styryl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.44g | CC1=CC=CN2C1=NC(=CC2=O)\C=C\C2=CC=CC=C2 | C17H14N2O
